US07230022B2
Part I: Preparation of N-(3-acetylphenyl)-N′-{(4aSR,8SR,8aRS)-2-[3-(4-fluorophenyl)propyl]-decahydroisoquinolin-8-yl}urea
A solution of (4aSR,8SR,8aRS)-2-[3-(4-fluorophenyl)propyl]decahydroisoquinolin-8-amine (15 mg, 50 μmol) in tetrahydrofuran (1 mL) was treated with 3-acetylphenylisocyanate (8.3 mg, 50 mmol). The mixture was stirred for 30 minutes, then treated with methanol (0.5 mL). The mixture was concentrated under vacuum to provide a residue. The residue was purified by flash column chromatography, eluting with 5% triethylamine/ethyl acetate, to provide a white solid (11.4 mg, 49%). 1H NMR (300 MHz, CDCl3) δ7.80 (s, 1H), 7.78 (d, J=8 Hz, 1H), 7.70 (s, 1H), 7.50 (d, J=8 Hz, 1H), 7.29 (t, J=8 Hz, 1H), 7.00 (m, 2H), 6.83 (m, 2H), 5.16 (d, J=10 Hz, 1H), 3.61 (m, 1H), 3.42 (m, 1H), 3.08 (m, 1H), 2.94 (m, 1H), 2.53 (s, 3H), 2.47 (t, J=8 Hz, 2H), 2.4-2.2 (m, 2H), 1.9-1.5 (m, 8H), 1.4-0.8 (m, 5H). Mass spec (ES+) m/z 452.3 (M+H+, 100%).

reactant | (4aSR,8SR,8aRS)-2-[3-(4-fluorophenyl)propyl]decahydroisoquinolin-8-amine | 50 μmol, 15 mg | FC1=CC=C(C=C1)CCCN1CC2C(CCCC2CC1)N | C18H27FN2
reactant | 3-acetylphenylisocyanate | 50 mmol, 8.3 mg | C(C)(=O)C=1C=C(C=CC1)N=C=O | C9H7NO2
reactant | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-(3-acetylphenyl)-N′-{(4aSR,8SR,8aRS)-2-[3-(4-fluorophenyl)propyl]-decahydroisoquinolin-8-yl}urea | 11.4 mg, 49% | C(C)(=O)C=1C=C(C=CC1)NC(=O)NC1CCCC2CCN(CC12)CCCC1=CC=C(C=C1)F | C27H34FN3O2
